US04585789
5-(3-Benzyloxypropyl)-2-oxo-4-phenyltetrahydro-3-furancarboxylic acid (1 g) was dissolved in a solution (5 ml) prepared from sodium acetate (105 mg), acetic acid (4 ml), formalin (2.92 ml) and diethylamine (1 ml), and the solution was heated on a water bath (100° C.) for 30 minutes. After cooling, the reaction mixture was poured into ice water and extracted with ether. The extract was washed with 5% sodium bicarbonate and water and dried over magnesium sulfate. The solvent was then distilled off to give 5-(3-benzyloxypropyl)-3-methylene-4-phenyltetrahydro-2-furanone (0.7 g) as a colorless oil.

reactant | 5-(3-Benzyloxypropyl)-2-oxo-4-phenyltetrahydro-3-furancarboxylic acid | 1 g | C(C1=CC=CC=C1)OCCCC1C(C(C(O1)=O)C(=O)O)C1=CC=CC=C1 | C21H22O5
reactant | sodium acetate | 105 mg | C(C)(=O)[O-].[Na+]
reactant | formalin | 2.92 ml | C=O | CH2O
reactant | diethylamine | 1 ml | C(C)NCC | C4H11N
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 5-(3-benzyloxypropyl)-3-methylene-4-phenyltetrahydro-2-furanone | 0.7 g | C(C1=CC=CC=C1)OCCCC1C(C(C(O1)=O)=C)C1=CC=CC=C1 | C21H22O3
